US07897766B2
N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-4-methoxybenzamide
Prepared from (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine and 4-methoxybenzoic acid (Aldrich) according to method B; 1H NMR (500 MHz, methanol-d4) δ 1.92-1.99 (m, 4H), 2.12 (s, 1H), 2.31 (d, J=14 Hz, 2H), 2.39 (s, 1H), 3.50 (s, 2H), 3.60 (s, 3H), 3.84-3.87 (m, 3H), 4.37 (s, 1H), 6.97-7.03 (m, 2H), 7.75-7.88 (m, 2H); MS (APCI/NH3) m/z 287 (M+H)+.

reactant | (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine | N12CC3[C@@H](C(CC(C1)C3)C2)N | C9H16N2
reactant | 4-methoxybenzoic acid | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | NH3 | N | H3N
product | N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-4-methoxybenzamide | N12CC3[C@@H](C(CC(C1)C3)C2)NC(C2=CC=C(C=C2)OC)=O | C17H22N2O2
